### PR TITLE
refactor: replace d.succ with d (1 of 2)

### PR DESCRIPTION
**Pull request by zhikaip**
several results were stated over `Space d.succ`, meaning the parameter `d` was actually dimension − 1. This is confusing (`d` should be the dimension) and forces awkward `d.succ`/`d.succ.succ` expressions. This PR migrates the Space.Integrals / IsDistBounded lemmas so `d` is the true dimension.

dimension ≥ 1 → [NeZero d] (typeclass): auto-infers for concrete dims (Space 2/3) contexts
dimension ≥ 2 → (hd : 2 ≤ d := by omega) (autoParam Prop): keeps @[fun_prop] working and auto-discharges at concrete dims contexts. (note: if used with dot notation still requires (by norm_num), but I prefer the clarity)

The distributional-norm results in Space/Norm.lean (distGrad/distDiv/distLaplacian of norm powers and logs, plus the fundamental-solution Laplacian) are still on Space d.succ/.succ.succ/.succ.succ.succ and will migrate in the next PR. 

(PR summary partially based on claude code summary but I went through all the changes myself)

Edit: Also remove two duplicate lemmas from mathlib (`volume_closedBall_ne_top` and `volume_closedBall_ne_top`)

### CODE REVIEW

File: Physlib/SpaceAndTime/Space/Integrals/Basic.lean [hunk 1]
```diff
@@ -45,40 +45,6 @@ open InnerProductSpace MeasureTheory
 lemma volume_eq_addHaar {d} : (volume (α := Space d)) = Space.basis.toBasis.addHaar := by
   exact (OrthonormalBasis.addHaar_eq_volume _).symm
 
-lemma volume_closedBall_ne_zero {d : ℕ} (x : Space d.succ) {r : ℝ} (hr : 0 < r) :
```
Comment (morrison-daniel) [inline Physlib/SpaceAndTime/Space/Integrals/Basic.lean:48]: Why is this and the next one removed? Are they redundant now?

**Review by morrison-daniel — COMMENTED** [review]
I think this is a good improvement, just the one question about the two removed lemmas

File: Physlib/SpaceAndTime/Space/Integrals/Basic.lean (hunk 1 above)
Comment (zhikaip) [reply Physlib/SpaceAndTime/Space/Integrals/Basic.lean:48]: ~oops I probably should've split this off as they are unrelated to this refactor, but~ (nevermind I remembered I was checking because they were also stated with d.succ)

basically I found out that they are one-liners with what's already in Mathlib and I don't feel they're necessary, i.e.

```
lemma volume_closedBall_ne_zero {d : ℕ} (x : Space d.succ) {r : ℝ} (hr : 0 < r) :
    volume (Metric.closedBall x r) ≠ 0 := by
  apply (Metric.measure_closedBall_pos volume _ hr).ne'

lemma volume_closedBall_ne_top {d : ℕ} (x : Space d.succ) (r : ℝ) :
    volume (Metric.closedBall x r) ≠ ⊤ := by
  apply measure_closedBall_lt_top.ne
```

These only affect the changes in Physlib/ClassicalMechanics/RigidBody/SolidSphere.lean (at the very beginning of the diff page).

Comment (zhikaip) [reply Physlib/SpaceAndTime/Space/Integrals/Basic.lean:48]: Updated PR summary to document this change as well

Comment (morrison-daniel) [reply Physlib/SpaceAndTime/Space/Integrals/Basic.lean:48]: Ah makes sense!

**Review by morrison-daniel — APPROVED** [review]
